US04596816
2N Sodium hydroxide (40 ml) was added to a solution of 5-(2-acetoxyethyl)-2-methyl-4-phenyloxazole (16.6 g) in methanol (40 ml) and the mixture was stirred for 30 minutes, diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue wwas purified by silica gel chromatography (silica gel: 190 g, eluent: isopropyl ether) to give an oil of 5-(2-hydroxyethyl)-2-methyl-4-phenyloxazole, yield 11.7 g (84.8%).

reactant | Sodium hydroxide | 2N, 40 ml | [OH-].[Na+]
reactant | 5-(2-acetoxyethyl)-2-methyl-4-phenyloxazole | 16.6 g | C(C)(=O)OCCC1=C(N=C(O1)C)C1=CC=CC=C1 | C14H15NO3
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
product | 5-(2-hydroxyethyl)-2-methyl-4-phenyloxazole | OCCC1=C(N=C(O1)C)C1=CC=CC=C1 | C12H13NO2
